US04654343
N-Methyl-N-[3-[3-(methylamino)-1,2,4-triazolo[4,3-b]pyridazin-6-yl]phenyl]acetamide
A solution of 6.0 g N-methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide and 4.8 g 4-methylthiosemicarbazide in 200 ml ethanol was refluxed for 5 hours and treated in similar fashion to Example 67. Chromatography on silica gel with dichloromethane-methanol (96:4) and recrystalization from dichloromethane-hexane afforded 2.1 g yellow crystals, mp 213°-215° C.

reactant | N-methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 6.0 g | CN(C(C)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C13H12ClN3O
reactant | 4-methylthiosemicarbazide | 4.8 g | CNC(NN)=S | C2H7N3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-Methyl-N-[3-[3-(methylamino)-1,2,4-triazolo[4,3-b]pyridazin-6-yl]phenyl]acetamide | 2.1 g | CN(C(C)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)NC | C15H16N6O
